US04511574
In 500 ml of ethyl acetate, was dissolved 4 g of ethyl N-(4-p-nitrophenyl-2-thiazolyl)carbamate, followed by an addition of 3 g of a 10% palladium/carbon catalyst. The mixture was then subjected under normal pressure to reduction with hydrogen gas. The catalyst was filtered off. The filtrate was concentrated and subjected to column chromatography on silica gel. The reaction product was eluted with a chloroform/ethylacetate mixed solvent. The resulting product was then recrystallized from methanol to obtain 2.6 g of ethyl N-(4-p-aminophenyl-2-thiazolyl)carbamate.

reactant | ethyl N-(4-p-nitrophenyl-2-thiazolyl)carbamate | 4 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1N=C(SC1)NC(OCC)=O | C12H11N3O4S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | [Pd] | Pd
product | ethyl N-(4-p-aminophenyl-2-thiazolyl)carbamate | 2.6 g | NC1=CC=C(C=C1)C=1N=C(SC1)NC(OCC)=O | C12H13N3O2S
